US06664431B2
A 0.3 dm3-capacity tubular reactor made from stainless steel, provided with electric heating, with a thermocouple sheath, with pipes for feeding the starting components and discharging the reaction products, is charged with about 0.23 dm3 of a catalyst which is silicon dioxide promoted with potassium fluoride in an amount of 35 wt. %. The catalyst is heated in a stream of dry nitrogen with a gradual temperature increase from 180 to 350° C. for four hours. Then the temperature is lowered to 240° C., and 40 g of methyl ester of perfluorovaleric acid are fed with the rate of 20 g/hour. The gas mixture outgoing from the reactor is condensed in a trap cooled down to −30° C., and subjected to low-temperature rectification, as a result of which 27.4 g of perfluoro-2-butene are obtained. The yield of the target product is 95.1%.

reactant | silicon dioxide | [Si](=O)=O | O2Si
reactant | potassium fluoride | [F-].[K+]
reactant | perfluorovaleric acid | FC(C(=O)O)(C(C(C(F)(F)F)(F)F)(F)F)F | C5HF9O2
product | perfluoro-2-butene | 27.4 g | FC(C(=C(C(F)(F)F)F)F)(F)F | C4F8
